US07105272B2
(1) Synthesis of Ethyl Phenyl Ketene (EPK)
A THF solution of 2-phenyl butyryl chloride (55 g, 0.3 mol) was added dropwise to a mixture of triethyl amine (91 g, 0.9 mol) in THF under nitrogen atmosphere. After one hour, precipitated triethyl amine hydrochloride was filtered. Filtrate was distilled under reduced pressure and EPK was obtained (60–70° C./4 mmHg). Amount obtained was 30 g (yield was 70%).

reactant | 2-phenyl butyryl chloride | 0.3 mol, 55 g | C1(=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO
reactant | triethyl amine | 0.9 mol, 91 g | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl Phenyl Ketene | yield was 70% | C(C)C(=C=O)C1=CC=CC=C1 | C10H10O
